US06831175B2
5-bromopyridin-3-yl acetate
A mixture of 3-bromo-5-hydroxypyridine (9.00 g, 51.7 mmol), acetic anhydride (6.0 mL) and triethylamine (12.0 mL) in THF (50 mL) was heated to reflux overnight, cooled to room temperature, diluted with diethyl ether, washed with water, 5% NaHCO3, water, and brine, dried (MgSO4), filtered, and concentrated to provide the desired product (9.37 g, 84%).

reactant | 3-bromo-5-hydroxypyridine | 51.7 mmol, 9.00 g | BrC=1C=NC=C(C1)O | C5H4BrNO
reactant | acetic anhydride | 6.0 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 12.0 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-bromopyridin-3-yl acetate | 9.37 g, 84% | C(C)(=O)OC=1C=NC=C(C1)Br | C7H6BrNO2
